US04048184
4-Chloro-2,6-diphenyl-2H-pyrazolo[3,4-b]pyridine
5.5 g. of 2,6-diphenyl-2H-pyrazolo[3,4-b]pyridin-4-ol (0.019 mol.) and 27.5 ml. of phosphorus oxychloride are refluxed with stirring for 90 minutes. The colled mixture is poured onto crushed ice, then made alkaline with concentrated aqueous ammonia while adding ice. The collected 4-chloro-2,6-diphenyl-2H-pyrazolo[3,4-b]pyridine is washed with water and dried at 80°; m.p. 175°-177°. A sample, recrystallized from ethanol, melts at 176°-178°; yield: 5 g. (86%).

reactant | 2,6-diphenyl-2H-pyrazolo[3,4-b]pyridin-4-ol | 0.019 mol | C1(=CC=CC=C1)N1N=C2N=C(C=C(C2=C1)O)C1=CC=CC=C1 | C18H13N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
product | 4-Chloro-2,6-diphenyl-2H-pyrazolo[3,4-b]pyridine | ClC=1C=2C(N=C(C1)C1=CC=CC=C1)=NN(C2)C2=CC=CC=C2 | C18H12ClN3
